US07378419B2
(5R,5aR,8aS,9S)-9-amino-5-(4-{[tert-butyl(dimethyl)silyl]oxy}-3,5-dimethoxyphenyl)-5,8,8a,9-tetrahydrofuro[3′,4′:6,7]naphtho[2,3-d][1,3]dioxol-6(5aH)-one
A 63.4 mmol solution of (5R,5aR,8aS,9S)-9-amino-5-(4-hydroxy-3,5-dimethoxyphenyl)-5,8,8a,9-tetrahydrofuro[3′,4′:6,7]naphtho[2,3-d][1,3]dioxol-6(5aH)-one, 111.8 mmol of tert-butyldimethylsilyl chloride and 510 mmol of imidazole in 1.6 l of anhydrous dimethylformamide is stirred for 20 hours at ambient temperature. The reaction mixture is then washed with 2 l of water then 1 l of ether. The ether phase is then decanted and the aqueous phase extracted with ether. The organic phases are then dried on magnesium sulfate, are filtered and concentrated under reduced pressure. The expected product is obtained by recrystallization in a benzene/heptane mixture.

reactant | (5R,5aR,8aS,9S)-9-amino-5-(4-hydroxy-3,5-dimethoxyphenyl)-5,8,8a,9-tetrahydrofuro[3′,4′:6,7]naphtho[2,3-d][1,3]dioxol-6(5aH)-one | N[C@H]1[C@@H]2[C@@H]([C@@H](C3=CC4=C(OCO4)C=C13)C1=CC(=C(C(=C1)OC)O)OC)C(OC2)=O | C21H21NO7
reactant | tert-butyldimethylsilyl chloride | 111.8 mmol | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 510 mmol | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 1.6 l | CN(C=O)C | C3H7NO
product | (5R,5aR,8aS,9S)-9-amino-5-(4-{[tert-butyl(dimethyl)silyl]oxy}-3,5-dimethoxyphenyl)-5,8,8a,9-tetrahydrofuro[3′,4′:6,7]naphtho[2,3-d][1,3]dioxol-6(5aH)-one | N[C@H]1[C@@H]2[C@@H]([C@@H](C3=CC4=C(OCO4)C=C13)C1=CC(=C(C(=C1)OC)O[Si](C)(C)C(C)(C)C)OC)C(OC2)=O | C27H35NO7Si
